US07396844B1
Synthesis of 3-[2-[[4-(1-t-butoxycarbonyl-4-piperidyloxy)phenyl]amino]ethoxy]benzonitrile
616 mg (1.91 mmol) of 1-t-butoxycarbonyl-4-(4-aminophenoxy)piperidine, 432 ml (1.91 mmol) of 3-(2-bromoethoxy)benzonitrile and 634 mg (3.82 mmol) of potassium iodide were dissolved in 20 ml of dimethylformamide. 2.64 g (19.1 mmol) of potassium carbonate was added to the solution, and they were stirred at room temperature for 14 hours. The solvent was distilled off under reduced pressure. After the treatment with ethyl acetate as extractant in an ordinary manner, the crude product was obtained. This product was purified by the silica gel column chromatography to obtain the title compound.

reactant | 1-t-butoxycarbonyl-4-(4-aminophenoxy)piperidine | 1.91 mmol, 616 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)N | C16H24N2O3
reactant | 3-(2-bromoethoxy)benzonitrile | 1.91 mmol, 432 ml | BrCCOC=1C=C(C#N)C=CC1 | C9H8BrNO
reactant | potassium iodide | 3.82 mmol, 634 mg | [I-].[K+]
reactant | potassium carbonate | 19.1 mmol, 2.64 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-[2-[[4-(1-t-butoxycarbonyl-4-piperidyloxy)phenyl]amino]ethoxy]benzonitrile | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)NCCOC=1C=C(C#N)C=CC1 | C25H31N3O4
